US07648983B2
(S)-N-(4-(3-bromo-4-fluorophenyl)-4,6,6-trimethyl-5,6-dihydro-4H-1,3-thiazin-2-yl)benzamide
To a solution of N-((4S)-4-(3-bromo-4-fluorophenyl)-6-(iodomethyl)-4,6-dimethyl-5,6-dihydro-4H-1,3-thiazin-2-yl)benzamide (0.13 g, 0.23 mmoles, 1.0 equiv) in toluene (1.5 mL) is added 2-2′-azo-bis-isobutyronitrile (0.006 g, 0.03 mmoles, 0.15 equiv) and tri-n-butyltin hydride. The reaction mixture is stirred at room temperature for 3 h and concentrated under reduced pressure. The solvent is removed under reduced pressure and the residue is purified by silica gel chromatography eluting with a linear gradient of 5% ethyl acetate:hexanes to 20% ethyl acetate:hexanes to give the title compound (25% yield): MS (m/z): 435, 437 (M+1).

reactant | N-((4S)-4-(3-bromo-4-fluorophenyl)-6-(iodomethyl)-4,6-dimethyl-5,6-dihydro-4H-1,3-thiazin-2-yl)benzamide | 0.23 mmoles, 0.13 g, 1.0 equiv | BrC=1C=C(C=CC1F)[C@]1(N=C(SC(C1)(C)CI)NC(C1=CC=CC=C1)=O)C | C20H19BrFIN2OS
reactant | tri-n-butyltin hydride | C(CCC)[SnH](CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-N-(4-(3-bromo-4-fluorophenyl)-4,6,6-trimethyl-5,6-dihydro-4H-1,3-thiazin-2-yl)benzamide | 25% yield | BrC=1C=C(C=CC1F)[C@]1(N=C(SC(C1)(C)C)NC(C1=CC=CC=C1)=O)C | C20H20BrFN2OS
